US09353070B2
Methyl N-methyl-N-(methylcarbamothioyl)carbamate
420.9 g (4.00 mol) N,N-dimethylthiourea with a purity of 99% were charged to 2000 g toluene. 507 g (4.78 mol) sodium carbonate was added and the suspension heated to 65° C. Afterwards 432.2 g (4.60 mol) methyl chloroformate were dosed in over 5 h at 65° C. The mixture was poststirred at the same temperature over 0.5 h. For work up, demineralized water was added under agitation and the phases separated. The aqueous phase was extracted with 800 g toluene and the organic phases were combined. The product content of the organic solution was determined with 15.15% by quant. HPLC (HPLC-method A; tR=3.6 min), which corresponds to a chemical yield of 90.3%.

reactant | N,N-dimethylthiourea | 4.00 mol, 420.9 g | CN(C(=S)N)C | C3H8N2S
reactant | toluene | 2000 g | C1(=CC=CC=C1)C | C7H8
reactant | sodium carbonate | 4.78 mol, 507 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | methyl chloroformate | 4.60 mol, 432.2 g | ClC(=O)OC | C2H3ClO2
solvent | water | O | H2O
product | Methyl N-methyl-N-(methylcarbamothioyl)carbamate | yield of 90.3% | CN(C(OC)=O)C(NC)=S | C5H10N2O2S
